*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM2520-102-2P (Common Mode Filter)
* Property: |Zc|=1000ohm Typ. at 100MHz
* Size(LxWxT): 2.5x2x1.2mm, 0.098x0.079x0.047inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM2520_102_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 4.27227698E-14
C22 22 32 4.27227698E-14
C41 12 22 2.60189667E-12
C42 32 42 2.60189667E-12
K11 L21 L22 9.99999999E-01
L11 11 12 1.46123888E-08
L12 21 22 1.46123888E-08
L13 31 32 1.46123888E-08
L14 41 42 1.46123888E-08
L21 12 42 2.26112824E-06
L22 22 32 2.26112824E-06
R11 11 12 7.53753715E+01
R12 21 22 7.53753715E+01
R13 31 32 7.53753715E+01
R14 41 42 7.53753715E+01
R21 12 42 4.18521173E+03
R22 22 32 4.18521173E+03
R31 n1 11 3.76800000E-01
R32 n2 21 3.76800000E-01
R33 n3 31 3.76800000E-01
R34 n4 41 3.76800000E-01
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM2520_102_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM2520-301-2P (Common Mode Filter)
* Property: |Zc|=300ohm Typ. at 100MHz
* Size(LxWxT): 2.5x2x1.2mm, 0.098x0.079x0.047inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM2520_301_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 3.67025889E-14
C22 22 32 3.67025889E-14
C41 12 22 1.57447115E-12
C42 32 42 1.57447115E-12
K11 L21 L22 9.99999999E-01
L11 11 12 6.34321923E-09
L12 21 22 6.34321923E-09
L13 31 32 6.34321923E-09
L14 41 42 6.34321923E-09
L21 12 42 6.58807299E-07
L22 22 32 6.58807299E-07
R11 11 12 7.94719294E+01
R12 21 22 7.94719294E+01
R13 31 32 7.94719294E+01
R14 41 42 7.94719294E+01
R21 12 42 1.95789907E+03
R22 22 32 1.95789907E+03
R31 n1 11 1.39000000E-01
R32 n2 21 1.39000000E-01
R33 n3 31 1.39000000E-01
R34 n4 41 1.39000000E-01
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM2520_301_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM2520-451-2P (Common Mode Filter)
* Property: |Zc|=450ohm Typ. at 100MHz
* Size(LxWxT): 2.5x2x1.2mm, 0.098x0.079x0.047inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM2520_451_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 3.74973541E-14
C22 22 32 3.74973541E-14
C41 12 22 1.80000355E-12
C42 32 42 1.80000355E-12
K11 L21 L22 9.99999999E-01
L11 11 12 6.33685720E-09
L12 21 22 6.33685720E-09
L13 31 32 6.33685720E-09
L14 41 42 6.33685720E-09
L21 12 42 8.72555954E-07
L22 22 32 8.72555954E-07
R11 11 12 7.23730810E+01
R12 21 22 7.23730810E+01
R13 31 32 7.23730810E+01
R14 41 42 7.23730810E+01
R21 12 42 2.26271732E+03
R22 22 32 2.26271732E+03
R31 n1 11 1.60600000E-01
R32 n2 21 1.60600000E-01
R33 n3 31 1.60600000E-01
R34 n4 41 1.60600000E-01
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM2520_451_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM2520-601-2P (Common Mode Filter)
* Property: |Zc|=600ohm Typ. at 100MHz
* Size(LxWxT): 2.5x2x1.2mm, 0.098x0.079x0.047inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM2520_601_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 3.91742862E-14
C22 22 32 3.91742862E-14
C41 12 22 2.12496021E-12
C42 32 42 2.12496021E-12
K11 L21 L22 9.99999999E-01
L11 11 12 1.36365164E-08
L12 21 22 1.36365164E-08
L13 31 32 1.36365164E-08
L14 41 42 1.36365164E-08
L21 12 42 1.22061343E-06
L22 22 32 1.22061343E-06
R11 11 12 7.94257870E+01
R12 21 22 7.94257870E+01
R13 31 32 7.94257870E+01
R14 41 42 7.94257870E+01
R21 12 42 2.53998578E+03
R22 22 32 2.53998578E+03
R31 n1 11 1.82200000E-01
R32 n2 21 1.82200000E-01
R33 n3 31 1.82200000E-01
R34 n4 41 1.82200000E-01
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM2520_601_2P_s
*----------------------------------------------------------------------
